US07790709B2
Preparation of (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-methyl-N-(4-methyl-naphthalen-1-ylmethyl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting methyl-N-(4-methyl-naphthalen-1-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (66 mg, 62%) was prepared as a pale, yellow powder and as a mixture of amide rotamers: 1H NMR (300 MHz, DMSO-d6) δ 8.61-8.35 (m, 2H), 8.14-8.05 (m, 2H), 7.61-7.52 (m, 3H), 7.36-7.03 (m, 3H), 5.30-5.07 (m, 2H), 4.45-4.23 (m, 2H), 3.94-3.65 (m, 6H), 3.45-3.17 (m, 4H), 3.04-2.94 (m, 4H), 2.65 (s, 3H); MS (ESI) m/e 431 (M+H)+.

reactant | (E)-3-(6-amino-5-morpholin-4-ylmethyl-pyridin-3-yl)acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCOCC1
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-N-(4-methyl-naphthalen-1-ylmethyl)amine | CNCC1=CC=C(C2=CC=CC=C12)C | C13H15N
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-(6-Amino-5-morpholin-4-ylmethyl-pyridin-3-yl)-N-methyl-N-(4-methyl-naphthalen-1-ylmethyl)acrylamide hydrochloride | 66 mg, 62% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(CC1=CC=C(C2=CC=CC=C12)C)C)CN1CCOCC1 | InChI=1S/C26H30N4O2.ClH/c1-19-7-9-21(24-6-4-3-5-23(19)24)17-29(2)25(31)10-8-20-15-22(26(27)28-16-20)18-30-11-13-32-14-12-30;/h3-10,15-16H,11-14,17-18H2,1-2H3,(H2,27,28);1H/b10-8+;
